US06313094B1
[Process 1] Boc-Ile-NH—CH2—CH(CH3)2
In a DMF solution containing 2.0 g of Boc-Ile-OH, 0.82 ml of isobutylamine, 1.27 g of HOBt and 2.06 g of DCC were added under ice cooling and the resultant mixture was stirred for 14 hr. The reaction mixture, after filtration, was treated similarly to that in Example 50 (Process 2), except for the crystallization solvent (hexane) to give 1.44 g of the title compound.

reactant | Boc-Ile-OH | 2.0 g | N([C@@H]([C@@H](C)CC)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | isobutylamine | 0.82 ml | C(C(C)C)N | C4H11N
reactant | HOBt | 1.27 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 2.06 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | CN(C)C=O | C3H7NO
product | Boc-Ile-NH—CH2—CH(CH3)2 | 1.44 g | N([C@@H]([C@@H](C)CC)C(=O)NCC(C)C)C(=O)OC(C)(C)C | C15H30N2O3
